US05098928
2-[1-{4-(4-Methoxyphenoxy)phenyl}ethan-1-ylidene]-1,3-dithiane-1-oxide (Compound No. 26)
2-[1-{4-(4-Methoxyphenoxy)phenyl}ethan-1-ylidene]-1,3-dithiane, 5 g, was dissolved in a solvent mixture of 100 ml of tetrahydrofuran and 50 ml of methanol and, 15 g of an aqueous solution containing 2.45 g of oxon was dropwise added to the solution under ice cooling. After stirring for an hour at the same temperature, water was added to the reaction mixture followed by extraction with chloroform. The organic phase was washed with a sodium thiosulfate aqueous solution and then with water. After drying over magnesium sulfate, the solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography (methylene chloride) to give 0.85 g of white crystals.

reactant | 2-[1-{4-(4-Methoxyphenoxy)phenyl}ethan-1-ylidene]-1,3-dithiane | COC1=CC=C(OC2=CC=C(C=C2)C(C)=C2SCCCS2)C=C1 | C19H20O2S2
reactant | water | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | methanol | 50 ml | CO | CH4O
product | 2-[1-{4-(4-Methoxyphenoxy)phenyl}ethan-1-ylidene]-1,3-dithiane-1-oxide | 0.85 g, yield: 16.2% | COC1=CC=C(OC2=CC=C(C=C2)C(C)=C2S(CCCS2)=O)C=C1 | C19H20O3S2
